US08802713B2
0.15 g of 5-chloro 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole was dissolved in 10 mL of chloroform, and 90mg of m-chloroperbenzoic acid (purity: 75%) was added under cooling with ice. After stirring for 1 hour under cooling with ice, the solution was washed with an aqueous sodium thiosulfate solution and then washed with an aqueous sodium hydrogen carbonate solution, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 0.16 g of 5-chloro 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole.

reactant | 5-chloro 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole | 0.15 g | ClC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(C(F)(F)F)F)(F)F | C15H9ClF10N2OS
reactant | m-chloroperbenzoic acid | 90mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole | 0.16 g | ClC1=CC(=NN1C1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)F)OC(C(C(F)(F)F)F)(F)F | C15H9ClF10N2O2S
